US07666864B2
Step 1: 2-((5-Bromopyrimidin-2-yloxy)methyl)-2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazole.
(2-Methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-yl)-methanol (0.10 g, 0.50 mmol), 5-bromo-2-chloropyrimidine (0.16 g, 0.82 mmol) and NaH (˜30 mg, 60% in mineral oil) were suspended in 2 mL DMF and stirred at r.t. for 2 hours. The resulting mixture was diluted with 150 mL EtOAc, washed with 100 mL NaHCO3 and 100 mL water. The aqueous layer was re-extracted with 100 mL EtOAc. The organic layer was washed with brine and dried over Na2SO4. The concentrated residue was purified by column chromatography (DCM/MeOH, 0 to 3%) to give the title compound (152 mg, 83%) as a white solid. APCI MS m/z 356.6, 358.6 (M+H). 1H NMR (400 MHz, (CD3)2SO) δ 8.77 (s, 2H), 8.14 (s, 1H), 4.61 (s, 2H), 4.41 (d, J=11.1 Hz, 1H), 4.20 (d, J=11.1 Hz, 1H), 1.70 (s, 3H).

reactant | (2-Methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-yl)-methanol | 0.50 mmol, 0.10 g | CC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CO | C7H9N3O4
reactant | 5-bromo-2-chloropyrimidine | 0.82 mmol, 0.16 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | NaH | ˜30 mg | [H-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 2-((5-Bromopyrimidin-2-yloxy)methyl)-2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazole | 152 mg, 83% | BrC=1C=NC(=NC1)OCC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C | C11H10BrN5O4
